US07385085B2
Step 1: (E)-tert-butyl 1-(3-tert-butylphenyl)-3-((dimethylamino)methylene)-4-oxocyclohexylcarbamate
To a stirred solution of tert-butyl 1-(3-tert-butylphenyl)-4-oxocyclohexylcarbamate (691 mg, 2.0 mmol) in Toluene (5 mL) was added tert-butoxybis(dimethylamino)methane (454 μL, 2.2 mmol). The reaction was stirred at 85° C. overnight. The reaction was concentrated and used crude in the next step.

reactant | tert-butyl 1-(3-tert-butylphenyl)-4-oxocyclohexylcarbamate | 2.0 mmol, 691 mg | C(C)(C)(C)C=1C=C(C=CC1)C1(CCC(CC1)=O)NC(OC(C)(C)C)=O | C21H31NO3
reactant | tert-butoxybis(dimethylamino)methane | 2.2 mmol, 454 μL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | Toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-tert-butyl 1-(3-tert-butylphenyl)-3-((dimethylamino)methylene)-4-oxocyclohexylcarbamate | C(C)(C)(C)C=1C=C(C=CC1)C1(C\C(\C(CC1)=O)=C/N(C)C)NC(OC(C)(C)C)=O | C24H36N2O3
